US04517195
[2-(2-Fluorobenzoyl)-1H-pyrrol-1-yl]-carbamic acid, ethyl ester
1-Amino-2-(2-fluorobenzoyl)pyrrole (41 g, 0.20 mol) and sodium bicarbonate (39 g, 0.46 mol) were combined in 400 ml of dichloromethane. To this stirred slurry was added ethyl chloroformate (24 g, 0.22 mol) over 3 minutes and the reaction mixture was refluxed for 5 hours, whereupon it was quenched with 200 ml of H2O and the organic layer separated. The organic extract was washed with H2O and brine, dried (MgSO4), filtered, and evaporated to an oil which crystallized upon trituration with hexane. Filtration yielded 50.8 g (92%) of crystals, m.p. 78°-80°.

reactant | 1-Amino-2-(2-fluorobenzoyl)pyrrole | 0.20 mol, 41 g | NN1C(=CC=C1)C(C1=C(C=CC=C1)F)=O | C11H9FN2O
reactant | sodium bicarbonate | 0.46 mol, 39 g | C([O-])(O)=O.[Na+]
reactant | ethyl chloroformate | 0.22 mol, 24 g | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | [2-(2-Fluorobenzoyl)-1H-pyrrol-1-yl]-carbamic acid, ethyl ester | 50.8 g, 92% | FC1=C(C(=O)C=2N(C=CC2)NC(OCC)=O)C=CC=C1 | C14H13FN2O3
